US05763599
A solution of potassium tertiary-butylate (90 mg, 0.8 mmol) in tert.-butanol (1 ml, synthesis quality, 99%) was added to 2-fluoro-6-nitrotoluene (776 mg, 5 mmol) and paraformaldehyde (150 mg, 5 mmol) in DMSO (2.5 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å). After the addition of the potassium tertiary-butylate solution, a color change from yellow to deep violet occurred. The solution was stirred for 5 min at room temperature and for 30 min at 70° C. (oil bath temperature). It was then left to cool down to room temperature and neutralized with a few drops of conc. HCl. The mixture was diluted with EtOAc (30 ml) and washed with H2O (20 ml). The aqueous phase was post-extracted with EtOAc (2×20 ml). Drying the organic phases over Na2SO4, filtering and evaporating the solvent under reduced pressure yielded the crude product (1.11 g) which was purified by column chromatography (20 g SiO2, 12×2 cm, solvent: PE 40 ml, PE/EtOAc 10:1 110 ml, 8:1 270 ml, 6:1 210 ml, 5:1 60 ml, 4:1 50 ml). 2-(2-fluoro-6-nitrophenyl)ethanol (653 mg, 71%) was obtained as a yellow solid.

reactant | 2-fluoro-6-nitrotoluene | 5 mmol, 776 mg | FC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | paraformaldehyde | 5 mmol, 150 mg | C=O | CH2O
solvent | tert.-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2-fluoro-6-nitrophenyl)ethanol | 653 mg, 71% | FC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C8H8FNO3
